### PR TITLE
Dagger category theory

### PR DESCRIPTION
**Pull request by Kfwullaert**
Some results about dagger categories, in particular:
- Every dagger functor factorizes by a unitarily eso dagger functor followed by a fully faithful dagger functor.
- Construction of the bicategory of dagger categories as a displayed bicategory over CAT and showed that it is (displayed) univalent.
- Let E be a dagger-univalent dagger-category. The functor 
(H . -) : [D,E]_Dag -> [C,E]_Dag,
induced by precomposition with a weak dagger equivalence H : C -> D, is again a weak dagger equivalence. The proof of this is an adaption of the proof the same lemma for categories.
- The identity type in the type of dagger categories is equivalent to the type of isomorphism of categories where one of the functors is a dagger functor.

### CODE REVIEW

**Review by m-lindgren — COMMENTED** [review]
Reviewed 6/12, looks good!

File: UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+
+End BicatOfDaggerCategories.
+
+Section Destructors.
+
+  Definition DAG_to_cat (C : DAG) : category := pr1 C.
+  Coercion DAG_to_cat : ob >-> category.
+
+  (* Don't know why the coercion doesn't work *)
+  Definition DAG_to_dagger (C : DAG) : dagger (DAG_to_cat C) := pr2 C.
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v:76]: I was indeed using a rather old Coq version, so it should work now.

File: UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+     Otherwise, we would have to restrict ourselves to CatUniv instead of Cat
+   *)
+
+  Definition DAG_disp_univalent_2 : disp_univalent_2 DAG_disp_bicat
+    := DAG_disp_univalent_2_0 ,, DAG_disp_univalent_2_1.
+
+End DagDisplayedUnivalence.
+
+Section Constructors.
+
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v:191]: Regarding these constructors, some of them are specific to the bicategorical case, more precisely those referring to the natural transformations. The others can indeed be moved.

File: UniMath/CategoryTheory/DaggerCategories/catiso.v [hunk 3]
```diff
@@ -0,0 +1,55 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DaggerCategories/catiso.v:1]: Can you rename this file so that the name has capital letters? Eg, something like `CatIso.v`.

File: UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v [hunk 4]
```diff
@@ -0,0 +1,241 @@
...
+    apply disp_cell_unit_bicat_univalent_2_1.
+    intro ; intros ; apply isaprop_is_dagger_functor.
+  Qed.
+
+  (* Notice that for global univalence, we don't use the premade lemma
+     for disp_cell_unit_bicat, as is used in the local univalence.
+     Otherwise, we would have to restrict ourselves to CatUniv instead of Cat
+   *)
+
+  Definition DAG_disp_univalent_2 : disp_univalent_2 DAG_disp_bicat
```
Comment (nmvdw) [inline UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v:185]: I have a conceptual question. Since `CAT` is not univalent, you cannot use these results to conclude that `DAG` is univalent. Instead, one would like `DAG` to be a dagger-univalent bicategory. Would the ideas/methods use in this proof be usable to prove the dagger-univalence of `DAG`?

**Review by nmvdw — APPROVED** [review]

File: UniMath/CategoryTheory/DaggerCategories/catiso.v (hunk 3 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v:1]: I adapted this exact name from CategoryTheory/catiso.v
Should that one also be changed?

Comment (nmvdw) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v:1]: Morally, it should, but you are not required to do so for this PR.

File: UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v [hunk 5]
```diff
@@ -0,0 +1,241 @@
...
+    - use proofirrelevance.
+      repeat (apply isapropdirprod)
+      ; repeat (apply impred_isaprop ; intro)
+      ; apply (cellset_property (C := DAG)).
+  Defined.
+
+End DaggerFunctorCategories.
+
+Section DagDisplayedUnivalence.
+
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v:98]: This is now solved

File: UniMath/CategoryTheory/DaggerCategories/catiso.v (hunk 3 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: @nmvdw I have changed catiso to CatIso. 
However, now I see that UniMath no longer compiles because catiso is used in the other libraries,
e.g., in TypeTheory: https://github.com/UniMath/TypeTheory/blob/master/TypeTheory/Auxiliary/CategoryTheoryImports.v

Comment (nmvdw) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: Yes. For `CatIso`, I don't think it's required in this PR, because it will indeed affect other subrepos. But for dagger CatIso, it is fine

Comment (Kfwullaert) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: @nmvdw Does this mean that I should rename them back to catiso (or undo the corresponding commit)?

Comment (nmvdw) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: I think that would be fine for this PR, because otherwise, a lot of stuff will be mixed up.

File: UniMath/CategoryTheory/DaggerCategories/CatIso.v [hunk 6]
```diff
@@ -0,0 +1,55 @@
...
+
+Require Import UniMath.CategoryTheory.DaggerCategories.Categories.
+Require Import UniMath.CategoryTheory.DaggerCategories.Functors.
+
+
+Local Open Scope cat.
+
+Local Definition catiso_is_path_cat
+           (C D : category)
+  : C = D ≃ catiso C D.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/DaggerCategories/CatIso.v:18]: If this doesn't exists already then it belongs in `CategoryTheory/catiso.v`.

File: UniMath/CategoryTheory/DaggerCategories/Functors/Factorization.v [hunk 7]
```diff
@@ -0,0 +1,140 @@
...
+    use (factor_through_squash_hProp _ _ (pr2 d)).
+    intro c.
+    apply hinhpr.
+    exists (pr1 c).
+    exists (pr12 c ,, tt).
+    split ; (use subtypePath ; [intro ; apply isapropunit |]) ; apply (pr2 c).
+  Qed.
+
+  Definition factorization_dont_know_a_name
+    :  functor_full_dagger_img ∙ sub_precategory_inclusion D (full_sub_precategory P) = F.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/DaggerCategories/Functors/Factorization.v:114]: Relatable! Coming up with good names is surprisingly difficult. Would `factorization_full_dagger_inclusion_equal` be suitable?

File: UniMath/CategoryTheory/DaggerCategories/CatIso.v (hunk 6 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/DaggerCategories/CatIso.v]: Agreed, but I had to put it in CategoryEquality (instead of catiso).

File: UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v (hunk 4 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/DaggerCategories/BicatOfDaggerCats.v:126]: I assume if you write DAG, that you would mean the bicategory of dagger-univalent dagger categories?
Even though I have not worked this out, I don't think it will. The result that dagger categories are equal iff they are isomorphic as dagger categories is more useful for this dagger-univalence of DAG.

File: UniMath/CategoryTheory/CategoryEquality.v [hunk 8]
```diff
@@ -247,3 +247,13 @@ Definition catiso_is_path_precat
         ∘ cat_eq_1_to_cat_eq_2 C D HD
         ∘ cat_path_to_cat_eq_1 C D
         ∘ path_precat C D HD)%weq.
+
+Definition catiso_is_path_cat
+           (C D : category)
+  : C = D ≃ catiso C D.
+Proof.
+  About catiso_is_path_precat.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/CategoryEquality.v:255]:
```suggestion
```

File: UniMath/CategoryTheory/DaggerCategories/catiso.v (hunk 3 above)
Comment (m-lindgren) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: If I'm not mistaken the commit that renamed `CategoryTheory/{catiso.v => CatIso.v}` also included other changes that shouldn't be reverted, so maybe the best way is to do it manually. Then we can squash all these commits when we merge the PR and the change to `catiso.v` will be a no-op.

Comment (Kfwullaert) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: @m-lindgren I'm confused. 
The first sentence I interpret as: I rename everything back to the way it was, so CatIso.v becomes back catiso.v (and this is done ad-hoc by again going through all the files manually that imports CatIso/catiso). Is this correct?
I have no idea what you mean to say with the second sentence.

Comment (m-lindgren) [reply UniMath/CategoryTheory/DaggerCategories/catiso.v]: Yes, that is correct, sorry for the confusion! And to be extra clear, I'm only talking about the file `CategoryTheory/CatIso.v`. The one in DaggerCategories should still be called `CatIso.v`. 

Sorry about the second sentence, it was just meant as a note to whoever merges this PR into `master` later that they should use the squash-and-merge option, and not the regular merge.

File: UniMath/Bicategories/DisplayedBicats/Examples/DisplayedCatToBicat.v [hunk 9]
```diff
@@ -289,3 +290,81 @@ Proof.
...
+  {aa : (disp_cell_unit_bicat D) a} {bb : (disp_cell_unit_bicat D) b}
+  {ff : aa -->[ f] bb}
+  (jj : disp_left_adjoint_data j ff)
+  : isaprop (disp_left_adjoint_axioms j jj).
+Proof.
+  apply isapropdirprod ; apply isasetaprop, isapropunit.
+Qed.
+
+(* To be moved more upstream *)
+Lemma isaprop_disp_left_equivalence_axioms
```
Comment (m-lindgren) [inline UniMath/Bicategories/DisplayedBicats/Examples/DisplayedCatToBicat.v:324]: Should this be named something like `_cell_unit_bicat`?

File: UniMath/CategoryTheory/DaggerCategories/Functors/Precomp.v [hunk 10]
```diff
@@ -0,0 +1,1212 @@
...
+
+    Context {F : functor C E} (dagF : is_dagger_functor dagC dagE F).
+
+  Local Definition X
+        (d : D) : UU
+    := ∑ (ck : ∑ e : E, ∏ c : C, unitary dagD (H c) d -> unitary dagE (F c) e),
+    ∏ t t' : ∑ c : C, unitary dagD (H c) d,
+          ∏ f : pr1 t --> pr1 t',
+             (#H f · pr12 t' = pr12 t ->
+                    #F f · pr1 (pr2 ck (pr1 t') (pr2 t')) = pr1 (pr2 ck (pr1 t) (pr2 t))).
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/DaggerCategories/Functors/Precomp.v:171]: It's not immediately clear to me what the goal of this section `IntermediateProp` is. Would it be possible to add a short explanation as a comment of what the goal of this section is, and if necessary sketch the path there?

File: UniMath/CategoryTheory/DaggerCategories/Functors/Precomp.v
Comment (m-lindgren) [inline UniMath/CategoryTheory/DaggerCategories/Functors/Precomp.v:1]: This file could benefit from a brief explanation of its purpose and contents.

**Review by m-lindgren — COMMENTED** [review]
My only remark is essentially that the material in Precomp could benefit from some documentation.
